US05010076
98.6 g of 2-aminobenzophenone were dissolved in a mixture of 650 ml of dichloromethane and 50 ml of water. A solution of 116.1 g of bromoacetyl bromide in 150 ml of dichloromethane was added dropwise to this mixture at a temperature of -10° C. The reaction mixture was then stirred at room temperature for a further 2 hours. The reaction mixture was worked up by adding water, separating the organic phase, washing again with water, drying and evaporating under reduced pressure. The crude product remaining as a residue was crystallized from ether/petroleum ether. 142 g of 2-[(2-bromoacetyl)-amino]-benzophenone having a melting point of 96-98° C. were obtained.

reactant | 2-aminobenzophenone | 98.6 g | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | bromoacetyl bromide | 116.1 g | BrCC(=O)Br | C2H2Br2O
solvent | dichloromethane | 650 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-[(2-bromoacetyl)-amino]-benzophenone | 142 g | BrCC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C15H12BrNO2
